US04236004
7,8-dihydro-8-ethyl-N-(2-hydroxyethyl)-5-(2-hydroxyethylamino)-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxamide
To 2 g. (0.0056 mole) of 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (prepared by the method of the first paragraph of Example 3) was added 20 ml. of 2-aminoethanol and this mixture was heated at reflux for 1.5 hours. The reaction mixture was chilled in ice and the product collected on a filter and recrystallized from ethanol to give 1.7 g. of product.--m.p. 250°-253° C.

reactant | 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.0056 mole | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)Cl | C18H16ClN3O3
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 7,8-dihydro-8-ethyl-N-(2-hydroxyethyl)-5-(2-hydroxyethylamino)-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxamide | C(C)N1C(C(=C(C2=C1N=C(N=C2)C2=CC=CC=C2)NCCO)C(=O)NCCO)=O | C20H23N5O4
